US07645771B2
To a solution of methyl 5-amino-2,4-difluorobenzoate (252 mg, 1.35 mmol) and pyridine (0.13 mL, 1.61 mmol) in 5 mL CH2Cl2 was added methanesulfonyl chloride (0.12 mL, 1.48 mmol). After 24 h at room temperature, the reaction mixture was washed with saturated aqueous NaHCO3 and extracted with CHCl3 to provide crude methyl 2,4-difluoro-5-[(methylsulfonyl)amino]benzoate as a solid (ESI-MS 264 (M−H)), which was hydrolyzed using aqueous NaOH to provide 2,4-difluoro-5-[(methylsulfonyl)amino]benzoic acid (ESI-MS 250 (M−H)), which was used without further purification.

reactant | methyl 5-amino-2,4-difluorobenzoate | 1.35 mmol, 252 mg | NC=1C(=CC(=C(C(=O)OC)C1)F)F | C8H7F2NO2
reactant | pyridine | 1.61 mmol, 0.13 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 1.48 mmol, 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 2,4-difluoro-5-[(methylsulfonyl)amino]benzoate | FC1=C(C(=O)OC)C=C(C(=C1)F)NS(=O)(=O)C | C9H9F2NO4S
